US08748374B2
N-((2R,6S,13aS,14aR,16aS,Z)-14a-(cyclopropylsulfonylcarbamoyl)-2-(7-fluoro-3-(trifluoromethyl)quinoxalin-2-yloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)-5-methylisoxazole-3-carboxamide
To a stirring solution of (2R,6S,13aS,14aR,16aS,Z)-2-(7-fluoro-3-(trifluoromethyl)quinoxalin-2-yloxy)-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid (5.13 g) and NMP (12.9 g) was added carbonyl diimidazole (1.83 g) as a solution in NMP (7.7 g). After 30 min, cyclopropylsulfonamide (1.81 g) was added to the reaction mixture as a solution in NMP (5.13 g). The solution was cooled to 5° C. and then DBU (4.0 g) was charged to the reaction mixture. The reaction was allowed to proceed for 15 h and then diluted with isopropyl acetate (IPAc) (33.5 g) and 2-methyltetrahydrofuran (33.5 g). The organic solution was washed with a 2.0 M aqueous solution of H3PO4 (51.3 g), a 5:3:1 solution of 2.0 M H3PO4, H2O, 10% aqueous solution of NaCl (total volume of 50 mL), water (5×25 g), and then concentrated to 25 mL by distillation. The organic solution was diluted with IPAc (25.0 g) and then concentrated back to 25 mL by distillation. This process was repeated three times. The concentrated product-containing solution was diluted with IPAc (108 g), filtered, and then concentrated again to 25 mL. The product-containing solution was distilled, maintaining a constant volume by the addition of ethanol (106 g). Ethanol (35 mL) was then added. Water (3.0 g) was then added to the product solution and the mixture was heated to 80° C. and then cooled to 20° C. over 12 h. The slurry was filtered and the cake was rinsed with ethanol (10 mL). The cake was dried under vacuum to provide the product (4.64 g, 79% yield) as a white, crystalline solid: 1H NMR (400 MHz, DMSO-D6) δ ppm 11.14 (s, 1H), 9.02 (s, 1H), 8.69 (d, J=6.7 Hz, 1H), 8.27 (dd, J=9.1, 5.9 Hz, 1H), 7.79 (dd, J=9.6, 2.3 Hz, 1H), 7.72 (td, J=8.7, 2.3 Hz, 1H), 6.09 (s, 1H), 5.95 (br s, 1H), 5.61 (q, J=8.5 Hz, 1H), 5.12 (t, J=9.5 Hz, 1H), 4.65 (d, J=11.7 Hz, 1H), 4.50 (t, J=8.2 Hz, 1H), 4.38-4.28 (m, 1H), 3.96 (dd, J=11.3, 2.4 Hz, 1H), 2.96-2.88 (m, 1H), 2.69-2.55 (m, 2H), 2.52-2.44 (m, 1H), 2.42 (s, 3H), 2.31 (q, J=8.7 Hz, 1H), 1.96 (q, J=11.4 Hz, 1H), 1.77-1.66 (m, 1H), 1.63-1.56 (m, 2H), 1.45-1.28 (m, 5H), 1.27-1.16 (m, 2H), 1.15-0.95 (m, 4H). LC-MS (ESI): m/z=792.2 [M+H].

reactant | (2R,6S,13aS,14aR,16aS,Z)-2-(7-fluoro-3-(trifluoromethyl)quinoxalin-2-yloxy)-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | 5.13 g | FC1=CC=C2N=C(C(=NC2=C1)O[C@@H]1C[C@@H]2N(C([C@H](CCCCC\C=C/[C@H]3[C@](NC2=O)(C3)C(=O)O)NC(=O)C3=NOC(=C3)C)=O)C1)C(F)(F)F | C32H32F4N6O7
reactant | carbonyl diimidazole | 1.83 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | cyclopropylsulfonamide | 1.81 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 4.0 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-methyltetrahydrofuran | 33.5 g | CC1OCCC1 | C5H10O
solvent | NMP | 7.7 g | CN1CCCC1=O | C5H9NO
solvent | NMP | 5.13 g | CN1CCCC1=O | C5H9NO
solvent | isopropyl acetate | 33.5 g | C(C)(=O)OC(C)C | C5H10O2
solvent | NMP | 12.9 g | CN1CCCC1=O | C5H9NO
product | N-((2R,6S,13aS,14aR,16aS,Z)-14a-(cyclopropylsulfonylcarbamoyl)-2-(7-fluoro-3-(trifluoromethyl)quinoxalin-2-yloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)-5-methylisoxazole-3-carboxamide | 4.64 g, 79% yield | C1(CC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H](CCCCC\C=C/[C@@H]1C2)NC(=O)C2=NOC(=C2)C)=O)C[C@@H](C3)OC3=NC2=CC(=CC=C2N=C3C(F)(F)F)F)=O | C35H37F4N7O8S
